US07858784B2
Synthesis of N-(4-methoxyphenyl)-2,5-dimethylaniline (FIG. 12, Table 8, Entry 10)
Following general procedure E, a mixture of 4-chloroanisole (123 μL, 1.0 mmol), 2,5-dimethylaniline (149 μL, 1.2 mmol), NaOt-Bu (115 mg, 1.2 mmol), 10 (0.08 mg, 0.01 mol %), 1 (0.05 mg, 0.01 mol %), and Bu2O (1 mL) was heated to 110° C. for 1 h. The crude product was purified via the Biotage SP4 (silica-packed 25+M; 0-30% EtOAc/hexanes) to provide the title compound as a white solid (220 mg, 97%), mp 40-41° C. 1H NMR (300 MHz, CDCl3) δ: 7.11 (m, 3H), 6.96 (m, 3H), 6.75 (d, J=7.5 Hz, 1H), 5.27 (s, 1H), 3.88 (s, 3H), 2.33 (s, 3H), 2.30 (s, 3H) ppm. 13C NMR (75 MHz, CDCl3) δ: 155.3, 143.5, 136.8, 136.7, 131.0, 122.7, 122.5, 121.1, 116.2, 115.0, 55.9, 21.7, 17.7 ppm. IR (neat, cm−1): 3400, 2921, 1579, 1511, 1463, 1292, 1241, 1037, 828, 800. Anal. Calcd. for C15H17NO: C, 79.26; H, 7.54. Found: C, 79.11; H, 7.59.

reactant | 4-chloroanisole | 1.0 mmol, 123 μL | ClC1=CC=C(C=C1)OC | C7H7ClO
reactant | 2,5-dimethylaniline | 1.2 mmol, 149 μL | CC1=C(N)C=C(C=C1)C | C8H11N
reactant | NaOt-Bu | 1.2 mmol, 115 mg | CC(C)(C)[O-].[Na+]
reactant | Bu2O | 1 mL | O(CCCC)CCCC | C8H18O
product | N-(4-methoxyphenyl)-2,5-dimethylaniline | 220 mg, 97% | COC1=CC=C(C=C1)NC1=C(C=CC(=C1)C)C | C15H17NO
